US07732460B2
(e) 6,7-Dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde
A solution of 3-ethenyl-6,7-dihydro[1,4]dioxino[2,3-c]pyridazine (11.58 g) in 1,4-dioxane/water (600 ml/180 ml), cooled in ice, was treated with an aqueous solution of osmium tetroxide (4% w/v, 25 ml) and sodium periodate (43 g). This mixture was allowed to warm to room temperature and after 7 hours under stirring the mixture was evaporated to dryness and azeotroped with 1,4-dioxane. Silica gel, 1,4-dioxane and chloroform were added and the mixture was evaporated to dryness overnight, then added to a silica column (400 g) and chromatographed, eluting with chloroform then 0-100% ethyl acetate in hexane, to afford a white solid (7.55 g, 64%).

reactant | 3-ethenyl-6,7-dihydro[1,4]dioxino[2,3-c]pyridazine | 11.58 g | C(=C)C1=CC2=C(N=N1)OCCO2 | C8H8N2O2
reactant | sodium periodate | 43 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane water | 600 ml | O1CCOCC1.O
catalyst | osmium tetroxide | 25 ml | [Os](=O)(=O)(=O)=O
product | 6,7-Dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde | 7.55 g, 64% | N1=NC(=CC2=C1OCCO2)C=O | C7H6N2O3
